US05977178
A solution of di-tert-butyidicarbonate (4.97 g, 22.8 mmol) in tetrahydrofuran (20 s ml) was added dropwise to a solution of (2R)-2-methylamino-3-(2-thienyl)propan-1-ol in 1N aqueous sodium hydroxide solution (19 ml) and tetrahydrofuran (20 ml). The reaction mixture was stirred at room temperature for 16 h. It was diluted with water (100 ml) and extracted with ethyl acetate (3×150 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (200 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (220 g), using ethyl acetate/heptane 1:1 as eluent, to give 3.85 g of N-((1R)-1-(hydroxymethyl)-2-(2-thienyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | di-tert-butyidicarbonate | 22.8 mmol, 4.97 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2R)-2-methylamino-3-(2-thienyl)propan-1-ol | CN[C@@H](CO)CC=1SC=CC1 | C8H13NOS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 19 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | N-((1R)-1-(hydroxymethyl)-2-(2-thienyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 3.85 g | C(C)(C)(C)OC(N(C)[C@H](CC=1SC=CC1)CO)=O | C13H21NO3S
